US05773463
(±)cis-1-Phenoxy-2-tert-butoxycarbonylaminoindane
The title compound was prepared in a similar manner to Preparation 18 from (±) N-tert-butoxycarbonyl-1,2-iminoindane (3 g, 13 mmol), phenol (1.22 g, 13 mmol), pyridinium p-toluenesulfonate (50 mg) and chloroform (100 ml). After a reaction time of 3 h, the reaction was diluted with chloroform (100 ml) then washed sequentially with saturated aq. sodium bicarbonate, water and brine. After drying over sodium sulfate, volatiles were removed in vacuo and the residue subjected to column chromatography on silica gel eluting with 10% diethyl ether in hexanes to afford a light brown solid which was recrystallised to afford the title compound (3.6 g) as a white solid m.p. 99°-101° C. (from diethyl ether-hexanes).

reactant | (±) N-tert-butoxycarbonyl-1,2-iminoindane | 13 mmol, 3 g | C(C)(C)(C)OC(=O)N1C2C1CC1=CC=CC=C21 | C14H17NO2
reactant | phenol | 13 mmol, 1.22 g | C1(=CC=CC=C1)O | C6H6O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridinium p-toluenesulfonate | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-Phenoxy-2-tert-butoxycarbonylaminoindane | 3.6 g | O(C1=CC=CC=C1)[C@H]1[C@H](CC2=CC=CC=C12)NC(=O)OC(C)(C)C | C20H23NO3
